US06063806
β-(3,5-Dimethylanilino)propionitrile (4.5 g) was dissolved in ethanol (50 ml), and a solution of NaOH (5.1 g) in water (25 ml) was added, which was followed by refluxing for 4 hr. The solvent was evaporated under reduced pressure. 2N Hydrochloric acid was added to adjust the residue acidic, and the mixture was washed with chloroform (100 ml). The aqueous layer was concentrated to about 20 ml and allowed to stand. The precipitated crystals were collected by filtration and dried to give 4.0 g of β-(3,5-dimethylanilino)propionic acid.

reactant | β-(3,5-Dimethylanilino)propionitrile | 4.5 g | CC=1C=C(NCCC#N)C=C(C1)C | C11H14N2
reactant | NaOH | 5.1 g | [OH-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | β-(3,5-dimethylanilino)propionic acid | 4.0 g | CC=1C=C(NCCC(=O)O)C=C(C1)C | C11H15NO2
